US04935441
As in example 18, but using 4.3 g 3-phenyl-3-(3-methoxyphenylmercapto)propionic acid, 40 ml dimethylformamide and 15 ml phosphorous oxychloride. After hydrolysis and work-up the residual oil is purified by column chromatography and the best fractions are recrystallized in diisopropylether. Pure 4-chloro-3-formyl-7-methoxy-thioflav-3-ene is obtained as yellow crystals; m.p. 84°-87° C.

reactant | 3-phenyl-3-(3-methoxyphenylmercapto)propionic acid | 4.3 g | C1(=CC=CC=C1)C(CC(=O)O)SC1=CC(=CC=C1)OC | C16H16O3S
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-chloro-3-formyl-7-methoxy-thioflav-3-ene | ClC1=C(C(SC2=CC(=CC=C12)OC)C1=CC=CC=C1)C=O | C17H13ClO2S
